US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-methoxy-2-(3-methoxypropoxy)benzyloxy]piperidine-1-carboxylate
Analogously to Method D, 0.417 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.278 g of 1-chloromethyl-3-methoxy-2-(3-methoxypropoxy)benzene are reacted. The title compound is obtained as a colourless oil. Rf=0.17 (1:2 EtOAc-heptane); Rt=6.19.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.417 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 1-chloromethyl-3-methoxy-2-(3-methoxypropoxy)benzene | 0.278 g | ClCC1=C(C(=CC=C1)OC)OCCCOC | C12H17ClO3
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-methoxy-2-(3-methoxypropoxy)benzyloxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=C(C(=CC=C2)OC)OCCCOC)C=CC=C1 | C39H53NO9
